US05166367
7-[3-[[(2,3-Dihydro-6-hydroxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
7-[3-[[(2,3-Dihydro-6-phenylmethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride (0.82 g, 1.6 mmole), prepared in Example 4 above, was dissolved in a mixture of 150 ml of water and 10 ml of methanol, 300 mg of 5% palladium on carbon added, and the mixture hydrogenated at 25 psi on a Parr apparatus for 4.5 hours. It was then filtered through celite and concentrated to dryness in vacuum. The residue was redissolved in methanol and boiled on a hot plate, the methanol being gradually replaced with isopropanol, and an additional 2.8 ml of 4N HCl/isopropanol was added. Upon cooling 0.37 g of the title compound, m.p. 244° C. (d), precipitated as a white solid, monohydrochloride.

reactant | 7-[3-[[(2,3-Dihydro-6-phenylmethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride | 1.6 mmole, 0.82 g | Cl.C1(=CC=CC=C1)COC1=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C=C1
solvent | water | 150 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 7-[3-[[(2,3-Dihydro-6-hydroxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | OC1=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C=C1 | C21H21NO6
